US05741788
E. 8-Methyl-[1,2,5]thiadiazolo[3',4':2,3]thiopyrano[4,5-c]pyridinium iodide
A solution of [1,2,5]thiadiazolo[3',4':2,3]thiopyrano[4,5-c]pyridine (100 mg, 0.5 mmol) and methyliodide (1.5 mmol) in acetone (10 ml) was stirred at room temperature overnight. The precipitate was collected by filtration to give the wanted product in 120 mg (70%) yield.

reactant | [1,2,5]thiadiazolo[3',4':2,3]thiopyrano[4,5-c]pyridine | 0.5 mmol, 100 mg | N1SN=C2SC=C3C(C=NC=C3)=C21 | C8H5N3S2
reactant | methyliodide | 1.5 mmol | CI | CH3I
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 8-Methyl-[1,2,5]thiadiazolo[3',4':2,3]thiopyrano[4,5-c]pyridinium iodide | [I-].CN1C=C2C(C=C1)=CSC=1C2=[NH+]SN1 | InChI=1S/C9H7N3S2.HI/c1-12-3-2-6-5-13-9-8(7(6)4-12)10-14-11-9;/h2-5H,1H3;1H
